US04017298
Preparation of 3,5-Dicyclohexyl-1,4-dimethylpyrazole
Methylhydrazine (1.0 g, 0.022 mole) is added at 60° C-70° C with stirring to an isopropanol (200 ml) solution of 1,3-dicyclohexyl-2-methyl-1,3-propanedione (5.0 g, 0.02 mole) having a m.p. =36°--37° C and prepared by the procedure of Example 3 above. The reaction is heated at reflux for 4 hours, then cooled, water (300 ml) added and the resulting solid filtered off. The solid is dissolved in anhydrous toluene, methyl hydrazine (1.0 g, 0.022 mole) added and the reaction mixture heated at 90° C for 4 hours. Then additional methyl hydrazine (1.0 g, 0.022 mole) is added and heating continued for 3 hours. The reaction mixture is cooled. The solvent removed on a rotary evaporator and the resulting solid crystallized from hexane/benzene to give 1.7 g (32%) of the desired product, m.p. 120° C to 122° C.

reactant | Methylhydrazine | 0.022 mole, 1.0 g | CNN | CH6N2
reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
reactant | 1,3-dicyclohexyl-2-methyl-1,3-propanedione | 0.02 mole, 5.0 g | C1(CCCCC1)C(C(C(=O)C1CCCCC1)C)=O | C16H26O2
reactant | methyl hydrazine | 0.022 mole, 1.0 g | CNN | CH6N2
reactant | methyl hydrazine | 0.022 mole, 1.0 g | CNN | CH6N2
solvent | water | 300 ml | O | H2O
product | 3,5-Dicyclohexyl-1,4-dimethylpyrazole | 1.7 g, 32% | C1(CCCCC1)C1=NN(C(=C1C)C1CCCCC1)C | C17H28N2
